US05852030
1-tert-butoxycarbonyl-2-(3-methoxycarbonylphenyl)hydrazine
In 40 ml of chloroform, 4.00 g of 3-methoxycarbonylphenylhydrazine methanesulfonic acid salt was dissolved. To this solution, aqueous sodium hydrogen carbonate (1.31 g/30 ml) was added and then 3.6 ml of di-tert-butyldicarbonate was added to the mixture, followed by heating the resulting mixture to reflux for one hour. After leaving the mixture to cool to room temperature, the mixture was separated and the aqueous layer was extracted with chloroform (2×20 ml). The organic layers were combined, dried and concentrated to obtain 4.68 g of unpurified captioned compound.

reactant | 3-methoxycarbonylphenylhydrazine methanesulfonic acid salt | 4.00 g | CS(=O)(=O)O.COC(=O)C=1C=C(C=CC1)NN
reactant | sodium hydrogen carbonate | 30 ml, 1.31 g | C(O)([O-])=O.[Na+]
reactant | di-tert-butyldicarbonate | 3.6 ml | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-tert-butoxycarbonyl-2-(3-methoxycarbonylphenyl)hydrazine | C(C)(C)(C)OC(=O)NNC1=CC(=CC=C1)C(=O)OC | C13H18N2O4
